US04231788
sorbitan monolaurate-undiluted
sorbitan monostearate-30% in H2O

reactant | sorbitan monostearate | CCCCCCCCCCCCCCCCCC(=O)OCC([C@@H]1[C@@H]([C@H](CO1)O)O)O | C24H46O6
solvent | H2O | O | H2O
product | sorbitan monolaurate | CCCCCCCCCCCC(=O)OCC([C@@H]1[C@@H]([C@H](CO1)O)O)O | C18H34O6
